US08445509B2
Production of benzyl [4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]carbamate
To a solution of benzylcarbamate {4-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}carbamate (8.7 g, 22.2 mmol) in N,N-dimethylacetamide (70 mL) was added cyclopropanecarbonyl chloride (2.21 mL, 24.4 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was washed with hexane/ethyl acetate (=1/1) and collected by filtration to give the title compound (8.5 g, 87%) as a thin-brown solid.

reactant | benzylcarbamate {4-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}carbamate | 22.2 mmol, 8.7 g | NC=1N=C2N(C=C(C=C2)OC2=CC=C(C=C2)NC(O)=O)C1.C(C1=CC=CC=C1)NC(O)=O
reactant | cyclopropanecarbonyl chloride | 24.4 mmol, 2.21 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 70 mL | CN(C(C)=O)C | C4H9NO
product | benzyl [4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]carbamate | 8.5 g, 87% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC=C(C=C2)NC(OCC2=CC=CC=C2)=O)C1 | C25H22N4O4
